US08445510B2
3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
A solution of 4-bromo-3-methoxy-1-methyl-1H-pyrazole (0.0399 g, 0.209 mmol), 3-[(S)-1-(2-chloro-3-fluoro-6-methoxy-phenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.0300 g, 0.0697 mmol), potassium carbonate (0.0289 g, 0.209 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride.dichloromethane (2.84 mg, 0.00348 mmol) in previously degassed 4:1 dioxane:water (1.50 mL) was evacuated and charged with N2 (2×) and heated under microwave conditions [Biotage, 100° C., 30 min, high absorption]. The reaction mixture was charged with an additional amount of 4-bromo-3-methoxy-1-methyl-1H-pyrazole (0.0399 g, 0.209) followed by Pd(PPh3)4 (4.02 mg, 0.00348 mmol) and evacuated and charged with N2 gas (3×) and heated under microwave conditions [Biotage, 100° C., 45 min, high absorption]. The dioxane layer was removed and diluted with CHCl3 and charged with silica gel. The sample was then dry loaded and purified by chromatography on silica gel [ISCO Combiflash, 12 g cartridge, 100% DCM→5% MeOH in DCM]. This resulted in the title compound as an off-white solid. 1H NMR (400 MHz, CD3OD): δ=1.78 (d, J=7.1 Hz, 3H), 3.75 (s, 3H), 3.93 (s, 3H), 5.07 (q, J=6.8 Hz, 1H), 6.83-6.91 (m, 1H), 7.09 (dd, J=8.8, 8.8 Hz, 1H), 7.27 (d, J=1.0 Hz, 1H), 7.65 (s, 1H), 7.83 (br. s., 1H), 8.27 (d, J=2.0 Hz, 1H). MS (ES+): m/z 415.06, 417.07 (76/24) [MH+]. HPLC: tR=3.97 min (polar—5 min, ZQ3).

reactant | 4-bromo-3-methoxy-1-methyl-1H-pyrazole | 0.209 mmol, 0.0399 g | BrC=1C(=NN(C1)C)OC | C5H7BrN2O
reactant | 3-[(S)-1-(2-chloro-3-fluoro-6-methoxy-phenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0697 mmol, 0.0300 g | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | potassium carbonate | 0.209 mmol, 0.0289 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 0.00348 mmol, 2.84 mg | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(PPh3)4 | 0.00348 mmol, 4.02 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-5-(3-methoxy-1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2)C)OC | C21H20ClFN4O2
